US05420275
3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(tetrazol-1-yl)pyridine
A mixture of 0.36 g of 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(tetrazol-1-yl)pyridine, 0.3 g of 10% Pd-C (50% wet) and 30 ml of ethyl acetate was stirred at room temperature for 2 hours in a stream of hydrogen. After the catalyst was filtered off, the reaction mixture was subjected to silica gel column chromatography with chloroform as the eluent, to give 0.172 g of the title compound.

reactant | 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(tetrazol-1-yl)pyridine | 0.36 g | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)N1N=NN=C1 | C18H16N6O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(tetrazol-1-yl)pyridine | 0.172 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N1N=NN=C1)C1=CC=CC=C1 | C18H18N6O4
